US09145354B2
Step 5 {(R)-1-[3-(3-Cyano-benzoyl)-2-fluoro-4-methoxy-phenyl]-propyl}-carbamic acid tert-butyl ester (200 mg) was dissolved in DCM (5 mL), 4M HCl in dioxane (485 uL, 1.94 mmol, 4 eq) was added and the reaction mixture was stirred for 5 hours. Water was then added and the mixture was made basic with 1M NaOH. The organic phase was isolated by phase separator and combined and concentrated to give 3-[3-((R)-1-amino-propyl)-2-fluoro-6-methoxy-benzoyl]-benzonitrile.

reactant | {(R)-1-[3-(3-Cyano-benzoyl)-2-fluoro-4-methoxy-phenyl]-propyl}-carbamic acid tert-butyl ester | 200 mg | C(C)(C)(C)OC(N[C@H](CC)C1=C(C(=C(C=C1)OC)C(C1=CC(=CC=C1)C#N)=O)F)=O | C23H25FN2O4
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 1.94 mmol, 485 uL, 4 eq | O1CCOCC1 | C4H8O2
reactant | NaOH | 1M | [OH-].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 3-[3-((R)-1-amino-propyl)-2-fluoro-6-methoxy-benzoyl]-benzonitrile | N[C@H](CC)C=1C(=C(C(=O)C=2C=C(C#N)C=CC2)C(=CC1)OC)F | C18H17FN2O2
